US07132436B2
4-Bromo-5-chloro-N-{4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-yl}-2-thiophenesulfonamide
The title compound 4-[2-chloro-4-(4 -chlorophenoxy)phenyl]-1,3-thiazol-2-amine (91 mg) and 4-bromo-5-chlorothiophene-2-sulfonyl chloride (80 mg) as described in the synthetic METHOD B to give a white solid (44.4 mg) with purity >90%: MS (pos) m/z 595.3, 597.3, 599.3; MS (neg) m/z 593.2, 595.2, 597.2.

reactant | 4-[2-chloro-4-(4 -chlorophenoxy)phenyl]-1,3-thiazol-2-amine | 91 mg | ClC1=C(C=CC(=C1)OC1=CC=C(C=C1)Cl)C=1N=C(SC1)N | C15H10Cl2N2OS
reactant | 4-bromo-5-chlorothiophene-2-sulfonyl chloride | 80 mg | BrC=1C=C(SC1Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | 4-Bromo-5-chloro-N-{4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-yl}-2-thiophenesulfonamide | BrC=1C=C(SC1Cl)S(=O)(=O)NC=1SC=C(N1)C1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)Cl | C19H10BrCl3N2O3S3
